US08877801B2
To a 30 mL vial containing (E)-3-(4-((6-methoxy-2-(4-methoxyphenyl)benzo[b]thiophen-3-yl)oxy)phenyl)-N-(3,3,3-trifluoropropyl)acrylamide (38 mg, 0.07 mmol) in DCM (1 mL) was added BBr3 (1 M in heptane, 0.072 mL, 0.07 mmol) and the reaction was stirred at room temperature for 1 h. The reaction was quenched with 4 mL MeOH and stirred for 10 min at room temperature after which time the resulting mixture was concentrated to 50% volume and the crude product was purified by reverse phase HPLC (acidic condition, 0.1% TFA in 1-100% CH3CN/H2O) to afford (E)-3-(4-((6-hydroxy-2-(4-hydroxyphenyl)benzo[b]thiophen-3-yl)oxy)phenyl)-N-(3,3,3-trifluoropropyl)acrylamide (31 mg, 0.06 mmol, 86% yield) as a white solid. 1H NMR (400 MHz, CD3OD) δ ppm=7.40-7.63 (m, 5H), 7.21 (d, J=2.02 Hz, 1H), 7.15 (d, J=8.59 Hz, 1H), 6.88-6.98 (m, 2H), 6.68-6.87 (m, 3H), 6.45 (d, J=15.66 Hz, 1H), 3.54 (t, J=7.07 Hz, 2H), 2.46 (tq, J=6.82, 10.95 Hz, 2H). LC/MS (m/z, MH+): 500.4.

reactant | (E)-3-(4-((6-methoxy-2-(4-methoxyphenyl)benzo[b]thiophen-3-yl)oxy)phenyl)-N-(3,3,3-trifluoropropyl)acrylamide | 0.07 mmol, 38 mg | COC=1C=CC2=C(SC(=C2OC2=CC=C(C=C2)/C=C/C(=O)NCCC(F)(F)F)C2=CC=C(C=C2)OC)C1 | C28H24F3NO4S
reactant | BBr3 | 0.07 mmol, 1 M, 0.072 mL | B(Br)(Br)Br | BBr3
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | (E)-3-(4-((6-hydroxy-2-(4-hydroxyphenyl)benzo[b]thiophen-3-yl)oxy)phenyl)-N-(3,3,3-trifluoropropyl)acrylamide | 0.06 mmol, 31 mg, 86% yield | OC=1C=CC2=C(SC(=C2OC2=CC=C(C=C2)/C=C/C(=O)NCCC(F)(F)F)C2=CC=C(C=C2)O)C1 | C26H20F3NO4S
